Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Tylenol / Neurontin
 
Attending: ___.
 
Chief Complaint:
Acute Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This patient is a ___ year old male, with ETOH and Hep C
cirrhosis, child's class B (MELD 16) presenting to the ED with
acute abdominal pain concerning for recurrent bowel obstruction.
Patient is now being seen by Transplant surgery in consultation.

As above, the patient has a history of cirrhosis secondary to
both ethanol and Hep C. Currently compensated. Last paracentesis
performed ___ years ago. His surgical history is pertinent for a
prior umbilical repair, and an exploratory laparotomy for a
closed loop obstruction requiring lysis of an internal hernia.
The patient was in his usual state of health until last night
when he developed an acute abdominal pain. He describes the pain
as stabbing in nature and constant. The pain is located in his
right flank. He has had around 10 episodes of bilious emesis.
Denies hematemesis. Last episode of vomiting was this morning at
10:00. He has not felt better after the emesis triggering this 
ED
visit. He describes this pain similar in nature as prior one 
last
year when he required exploration. The patient endorses chills
but denies any fever, chest pain, SOB, dysuria, or urinary
urgency or frequency. He last passed gas this morning and  has
not had a bowel movement in the last two days.

In the ED, VSS. Patient with persistent nausea. No NG in place.
Abdomen soft but tender to right flank. No peritoneal. Labs w/o
leukocytosis or acidosis. Imaging studies c/w distal ileum bowel
obstruction. No signs of bowel ischemia. Moderate ascites.  

ROS:
(+) per HPI
(-) Denies pain, fevers chills, night sweats, unexplained weight
loss, fatigue/malaise/lethargy, changes in appetite, trouble 
with
sleep, pruritis, jaundice, rashes, bleeding, easy bruising,
headache, dizziness, vertigo, syncope, weakness, paresthesias,
nausea, vomiting, hematemesis, bloating, cramping, melena, 
BRBPR,
dysphagia, chest pain, shortness of breath, cough, edema, 
urinary
frequency, urgency

 
Past Medical History:
 - Hepatitis C (genotype 3)  
 - Cirrhosis, Child's Class C due EtOH and HCV d/b hepatic 
encephalopathy, portal hypertension with ascites and esophageal 
varices, portal hypertensive gastropathy  
 - Gastric & Duodenal ulcers  
 - Insomnia  
 - Umbilical hernia  
 - Sacral osteoarthritis  
 
Past Surgical History:  
 - Umbilical hernia repair (___)  
 -SBO requiring Ex lap & repair of ruptured umbilical hernia 
with lysis of adhesions (___)
 - Abdominal Hematoma evacuation (___)  
 - Abdominal incision opened, wound vac placed (___) 
 
Social History:
___
Family History:
Sister and brother both with "collapsed lungs." No family 
history of liver disease.
 
Physical Exam:
Vitals: 98.1, 121/70, 57, 18, 98% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, tender to deep palpation to right flank. No rebound.
Ascites. Dull to percussion.
Ext: No ___ edema, ___ warm and well perfused
.
Weight at discharge: 64.5 kg
 
Pertinent Results:
Labs on Admission: ___
WBC-6.1 RBC-4.29* Hgb-14.8 Hct-44.0 MCV-103* MCH-34.5* MCHC-33.6 
RDW-15.7* RDWSD-56.9* Plt ___ PTT-38.3* ___
Glucose-121* UreaN-9 Creat-0.7 Na-138 K-4.4 Cl-100 HCO3-24 
AnGap-14
ALT-27 AST-102* AlkPhos-135* TotBili-4.1*
Albumin-3.1* Calcium-8.5 Phos-4.2 Mg-1.6
.
Labs at Discharge: ___
WBC-5.8 RBC-3.88* Hgb-13.3* Hct-39.9* MCV-103* MCH-34.3* 
MCHC-33.3 RDW-15.7* RDWSD-58.6* Plt ___
Glucose-145* UreaN-6 Creat-0.8 Na-136 K-5.3* Cl-105 HCO3-23 
AnGap-8
ALT-18 AST-54* AlkPhos-94 TotBili-3.8*
Calcium-7.6* Phos-3.7 Mg-1.___ y/o male with HCV, ETOH cirrhosis with prior ex-lap who now 
presents with acute abdominal pain.

On admission the patient had a CT done with findings suspicious 
for partial small bowel obstruction with adhesive disease in the 
right lower quadrant involving loops of ileum with alternating 
areas of luminal narrowing and dilatation. Overall, the 
appearance of the small bowel is similar to the previous CT from 
___. 
Of note there is liver cirrhosis with small to moderate ascites, 
mild splenomegaly, and portosystemic varices. There is also a 
nonocclusive small thrombus in the main portal vein which is 
slightly smaller compared to ___. 

An NG tube was placed, and he was having bilious output from the 
NG tube. He reported passing some flatus, and the abdominal pain 
was present but stable on exam.

On hospital day two, he was reporting an increase in abdominal 
pain. A KUB was done showing that there was no evidence of free 
air. The abdominal exam still showed him to be soft, and serial 
exams over the next ___ hours showed him to be less tender.

A suppository was given resulting in a loose bowel movement and 
he was reporting passing some flatus still. The NG tube output 
was lightening in colr and less volume. Prior to the NG tube 
being discontinued, another KUB was obtained, with no evidence 
of obstruction. 

The NG tube was removed and he was kept NPO for the next ___ 
hours. He had no nausea with tube removed, and so he was started 
on a clear diet which he tolerated without nausea or vomiting. 
The abdominal exam was significantly improved so he was deemed 
safe for discharge with plan for clears for three days.

Liver function tests were slightly improved at discharge. 

Additionally the patient has a follow up appointment with his 
hepatologist this week which the patient was advised to keep. 
Home medications including diuretics were resumed at discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Famotidine 20 mg PO BID 
2. Fentanyl Patch 50 mcg/h TD Q72H 
3. Furosemide 20 mg PO DAILY 
4. Lactulose 30 mL PO QID 
5. Lidocaine 5% Patch 1 PTCH TD QAM 
6. OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN Pain - 
Moderate 
7. Potassium Chloride 20 mEq PO DAILY 
8. Spironolactone 50 mg PO DAILY 
9. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
10. Bisacodyl 10 mg PR QHS:PRN constipation 
11. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
12. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Medications:
1.  Bisacodyl 10 mg PR QHS:PRN constipation  
2.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
3.  Famotidine 20 mg PO BID  
4.  Fentanyl Patch 50 mcg/h TD Q72H  
5.  Furosemide 20 mg PO DAILY  
6.  Lactulose 30 mL PO QID  
7.  Lidocaine 5% Patch 1 PTCH TD QAM  
8.  OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN Pain - 
Moderate  
9.  Polyethylene Glycol 17 g PO DAILY  
10.  Potassium Chloride 20 mEq PO DAILY  
11.  Spironolactone 50 mg PO DAILY  
12.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small bowel obstruction: Resolved

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call Dr. ___ office at ___ if you have fever 
greater than 101, chills, nausea, vomiting, constipation, you 
are not passing gas, you have a lot of hiccupping or burping, 
your abdomen is becoming more distended, you have pain in your 
abdomen or any other concerning symptoms.

Continue all your home medications as they have been prescribed 
to you. Follow up with your primary providers if you have 
questions about those medications.

To help your bowel heal and not become obstructed again, you 
should continue a clear diet through ___. This means 
liquids you can see through, clear sodas, water, clear juices, 
jello and broth.

 
Followup Instructions:
___